US04670427
(a) 17α-Acetoxy-1α,2α-methylene-4-pregnene-3,20-dione
A solution of 60.0 g of 17α-acetoxy-1α,2α-methylene-4,6-pregnadiene-3,20-dione [R. Wiechert et al., Chem. Ber. 93: 1710 (1960)] in 1.25 1 of dimethylformamide is combined with 6.3 g of 10% Pd/CaCO3 and then hydrogenated. After a hydrogen absorption of 5.1 1, the catalyst is filtered off and the reaction solution stirred into ice water. The precipitate is suctioned off, worked up as usual, and the crude product is purified on 1.5 kg of silica gel with a pentane-acetone gradient (0-30% acetone). Yield: 34.3 g of 17α-acetoxy-1α,2α-methylene-4-pregnene-3,20-dione, mp 268°-270° C. [α]D =+215°.

reactant | 17α-acetoxy-1α,2α-methylene-4,6-pregnadiene-3,20-dione | 60.0 g | C(C)(=O)O[C@]1(C(C)=O)CC[C@H]2[C@@H]3C=CC4=CC([C@H]5[C@@H]([C@]4(C)[C@H]3CC[C@]12C)C5)=O | C24H30O4
catalyst | Pd CaCO3 | 6.3 g | [Pd].C(=O)([O-])[O-].[Ca+2]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 17α-Acetoxy-1α,2α-methylene-4-pregnene-3,20-dione | C(C)(=O)O[C@]1(C(C)=O)CC[C@H]2[C@@H]3CCC4=CC([C@H]5[C@@H]([C@]4(C)[C@H]3CC[C@]12C)C5)=O | C24H32O4
